US08232312B2
tert.butyl [(1-benzylcarbamoyl-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate
150 mg 5-(3,5-dichloro-phenylsulphonylamino)-indole-1-carboxylic acid-benzylamide are dissolved in 5 ml dimethylformamide. 109 mg potassium carbonate and 51 μl tert.butyl bromoacetate are added thereto. The mixture is stirred for 4 hours at ambient temperature, the solvent is eliminated in vacuo and the residue is divided between water and ethyl acetate. The aqueous phase is extracted with ethyl acetate and the combined organic phases are dried on magnesium sulphate. The solvents are eliminated in vacuo and the residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 10:1 to 1:3).

reactant | 5-(3,5-dichloro-phenylsulphonylamino)-indole-1-carboxylic acid-benzylamide | 150 mg | C(C1=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C22H17Cl2N3O3S
reactant | potassium carbonate | 109 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert.butyl bromoacetate | 51 μl | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert.butyl [(1-benzylcarbamoyl-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate | C(C1=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CC(=O)OC(C)(C)C | C28H27Cl2N3O5S
